US06187953B1
An aqueous solution of 3.04 g (9.90 mmol) of tris(3-aminophenyl)phosphine in 100 ml of water was treated with 13.5 ml of hydrochloric acid (2 N) and the clear solution was stirred at room temperature for 30 minutes. The solvent was distilled off at 60° C. under reduced pressure, giving 3.21 g of tris(3-ammoniophenyl)phosphine trichloride as a colorless solid (yield: 78%).

reactant | tris(3-aminophenyl)phosphine | 9.90 mmol, 3.04 g | NC=1C=C(C=CC1)P(C1=CC(=CC=C1)N)C1=CC(=CC=C1)N | C18H18N3P
reactant | hydrochloric acid | 2 N, 13.5 ml | Cl | ClH
solvent | water | 100 ml | O | H2O
product | tris(3-ammoniophenyl)phosphine trichloride | 3.21 g, yield: 78% | [Cl-].[Cl-].[Cl-].[NH3+]C=1C=C(C=CC1)P(C1=CC(=CC=C1)[NH3+])C1=CC(=CC=C1)[NH3+] | InChI=1S/C18H18N3P.3ClH/c19-13-4-1-7-16(10-13)22(17-8-2-5-14(20)11-17)18-9-3-6-15(21)12-18;;;/h1-12H,19-21H2;3*1H
